data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:1]1([C:4](=[O:21])[O:30][CH3:7])[CH2:9][CH2:26][CH2:22][N:28]1[C:23]1=[CH:13][CH2:3][CH2:27][CH2:17][CH2:6]1.[n:2]1[n:5][c:25]2[n:11]([cH:14][c:24]([N+:10](=[O:8])[O-:19])[cH:18][c:15]2[N+:16](=[O:12])[O-:29])[n:20]1>>[CH:1]1([C:4](=[O:21])[O:30][CH3:7])[CH2:9][CH2:26][CH2:22][N+:28]1=[C:23]1[CH2:6][CH2:17][CH2:27][CH2:3][CH:13]1[CH:14]1[n:11]2[n:20][n:2][n:5][c:25]2[C:15]([N+:16](=[O:12])[O-:29])=[CH:18][C:24]1=[N+:10]([O-:8])[O-:19]", "epd": [["LP-/Pi+", [28], [23, 28]], ["Pi-/Sigma+", [13, 23], [13, 14]], ["Pi-/Pi+", [14, 24], [24, 10]], ["Pi-/LP+", [10, 8], [8]]]}
{"reaction_name": "Electrophilic fluorination", "rsmi": "[C:5]1(=[CH2:14])[N:21]([CH3:6])[c:18]2[cH:8][cH:15][cH:16][cH:9][c:17]2[N:22]1[CH3:7].[O:1]=[S:26](=[O:2])([N:24]([F:23])[S:25](=[O:3])(=[O:4])[c:31]1[cH:10][cH:27][cH:19][cH:30][cH:13]1)[c:32]1[cH:11][cH:28][cH:20][cH:29][cH:12]1>>[O:1]=[S:26](=[O:2])([N-:24][S:25](=[O:3])(=[O:4])[c:31]1[cH:10][cH:27][cH:19][cH:30][cH:13]1)[c:32]1[cH:11][cH:28][cH:20][cH:29][cH:12]1.[c:5]1([CH2:14][F:23])[n+:21]([CH3:6])[c:18]2[cH:8][cH:15][cH:16][cH:9][c:17]2[n:22]1[CH3:7]", "epd": [["LP-/Pi+", [21], [5, 21]], ["Pi-/Sigma+", [14, 5], [14, 23]], ["Sigma-/LP+", [23, 24], [24]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:1][CH2:5][O:4][C:16]([CH:2]=[C:6]([CH3:19])[N:24]=[N:11][C:3](=[O:12])[NH:14][c:20]1[cH:22][cH:9][cH:21][cH:10][cH:23]1)=[O:13].[N+:7](=[CH:15][CH3:8])([O-:17])[O-:18]>>[CH3:1][CH2:5][O:4][C:16]([CH:2]([C:6]([CH3:19])=[N:24][N:11]=[C:3]([O-:12])[NH:14][c:20]1[cH:22][cH:9][cH:21][cH:10][cH:23]1)[CH:15]([N+:7](=[O:17])[O-:18])[CH3:8])=[O:13]", "epd": [["LP-/Pi+", [17], [7, 17]], ["Pi-/Sigma+", [15, 7], [15, 2]], ["Pi-/Pi+", [2, 6], [6, 24]], ["Pi-/Pi+", [24, 11], [11, 3]], ["Pi-/LP+", [3, 12], [12]]]}
{"reaction_name": "Internal proton shuttle", "rsmi": "[S:1]([CH2:4][CH2:3][O-:2])[H:5]>>[S-:1][CH2:4][CH2:3][O:2][H:5]", "epd": [["LP-/Sigma+", [2], [2, 5]], ["Sigma-/LP+", [1, 5], [1]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:1]([O:10][C:24](=[O:8])[N:20]=[CH:9][c:7]1[cH:2][cH:15][cH:19][cH:16][cH:3]1)([CH3:21])([CH3:22])[CH3:23].[cH:4]1[cH:11][c:14]([S-:18])[cH:12][cH:5][c:13]1[O:17][CH3:6]>>[C:1]([O:10][C:24]([O-:8])=[N:20][CH:9]([c:7]1[cH:2][cH:15][cH:19][cH:16][cH:3]1)[S:18][c:14]1[cH:11][cH:4][c:13]([O:17][CH3:6])[cH:5][cH:12]1)([CH3:21])([CH3:22])[CH3:23]", "epd": [["LP-/Sigma+", [18], [18, 9]], ["Pi-/Pi+", [9, 20], [20, 24]], ["Pi-/LP+", [24, 8], [8]]]}
{"reaction_name": "Lactone-forming cyclodehydration", "rsmi": "[CH2:1]([O:3][H:9])[CH2:6][CH2:7][CH2:8][C:5](=[O:2])[OH:4]>>[CH2:1]1[O:3][C:5](=[O:2])[CH2:8][CH2:7][CH2:6]1.[OH:4][H:9]", "epd": [["LP-/Sigma+", [3], [3, 5]], ["Pi-/LP+", [2, 5], [2]], ["LP-/Pi+", [2], [2, 5]], ["Sigma-/LP+", [4, 5], [4]], ["LP-/Sigma+", [4], [4, 9]], ["Sigma-/LP+", [3, 9], [3]]]}
{"reaction_name": "Sakurai–Prins cyclization", "rsmi": "[CH2:1]1[CH2:3][CH+:9][O:4]1.[CH2:2]([Si:5]([CH3:6])([CH3:7])[CH3:8])[CH:11]=[CH2:10]>>[CH2:1]1[CH2:3][CH:9]([CH2:2][CH:11]=[CH2:10])[O:4]1.[Si+:5]([CH3:6])([CH3:7])[CH3:8]", "epd": [["Sigma-/Sigma+", [2, 5], [2, 9]]]}
{"reaction_name": "Iodolactonization", "rsmi": "[CH2:3]([CH2:5][C:8](=[O:4])[OH:6])[CH:7]=[CH2:9].[I:1][I:2]>>[I-:2].[I:1][CH2:9][CH:7]1[CH2:3][CH2:5][C:8](=[O:4])[OH+:6]1", "epd": [["Pi-/Sigma+", [7, 9], [1, 9]], ["Sigma-/LP+", [1, 2], [2]], ["LP-/Sigma+", [6], [6, 7]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:2][O:5][c:8]1[cH:32][cH:16][c:13]([CH:25]=[C:24]2[CH:26]=[C:9]([Br:22])[C:11](=[O:21])[C:10]([Br:23])=[CH:27]2)[cH:17][cH:33]1.[CH:1]([C:12](=[O:14])[c:18]1[cH:3][cH:29][c:15]([N:28]([CH3:19])[CH3:20])[cH:30][cH:4]1)=[S:31]([CH3:6])[CH3:7]>>[CH:1]([C:12](=[O:14])[c:18]1[cH:3][cH:29][c:15]([N:28]([CH3:19])[CH3:20])[cH:30][cH:4]1)([CH:25]([c:13]1[cH:16][cH:32][c:8]([O:5][CH3:2])[cH:33][cH:17]1)[c:24]1[cH:26][c:9]([Br:22])[c:11]([O-:21])[c:10]([Br:23])[cH:27]1)[S+:31]([CH3:6])[CH3:7]", "epd": [["Pi-/Sigma+", [1, 31], [1, 25]], ["Pi-/Pi+", [25, 24], [24, 26]], ["Pi-/Pi+", [26, 9], [9, 11]], ["Pi-/LP+", [11, 21], [21]]]}
{"reaction_name": "Silylation of alcohols", "rsmi": "[Cl:1][Si:6]([CH3:3])([CH3:4])[CH3:5].[O:2]([CH3:7])[H:8]>>[Cl:1][H:8].[O:2]([Si:6]([CH3:3])([CH3:4])[CH3:5])[CH3:7]", "epd": [["LP-/Sigma+", [2], [2, 6]], ["Sigma-/LP+", [1, 6], [1]], ["LP-/Sigma+", [1], [1, 8]], ["Sigma-/LP+", [2, 8], [2]]]}
